US08168412B2
To a flask containing 0.6 g of a substrate N-benzyl-3-pyrrolidinone, 1.85 g of D-glucose, 2.3 mg of NAD+, 1.83 g of D-alanine, and 4.0 mg of pyridoxal phosphate, 30 ml of a culture fluid of the E. coli HB101 (pNTASPAG), obtained in Example 11, which expresses TAS, PALDH, and GDH were added. The resultant product was stirred at 30° C. while being adjusted to a pH of 6.8 by drippage of 5 N aqueous solution of sodium hydroxide. During the reaction, the reaction liquid was sampled. From the sample, N-benzyl-3-aminopyrrolidine was extracted by the addition of ethyl acetate after basifying the sample with 6 N aqueous solution of sodium hydroxide. The amount of N-benzyl-3-aminopyrrolidine produced was measured by analyzing N-benzyl-3-aminopyrrolidine under the following HPLC conditions. Further, by the law of the art, N-benzyl-3-aminopyrrolidine thus obtained was acted on by 3,5-dinitrobenzyl chloride to form a dinitrobenzyl derivative. After that, the dinitrobenzyl derivative was analyzed under the following HPLC conditions, whereby the optical purity thereof was measured.

reactant | N-benzyl-3-pyrrolidinone | 0.6 g | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
reactant | D-glucose | 1.85 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NAD+ | 2.3 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
reactant | D-alanine | 1.83 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | pyridoxal phosphate | 4.0 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | sodium hydroxide | [OH-].[Na+]
product | N-benzyl-3-aminopyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)N | C11H16N2
